US04297364
While stirring, 22.3 g of diisopropylamine is dripped into a solution of 24.5 g of α-chloro-α-(4-chlorophenyl)-acetyl chloride (see a)) in 50 ml of dioxane. After the exothermic reaction has subsided, the mixture is stirred overnight and then poured into 700 ml of ice water; the resultant mixture is acidified with dilute hydrochloric acid and the oil which separates out is extracted 8 times, each time with 100 ml of dichloromethane. The combined extracts are washed twice with sodium carbonate solution, dried over magnesium sulfate and concentrated. There is obtained 27.2 g of α-chloro-α-(4-chlorophenyl)-acetic acid diisopropyl amide as a brownish oil.

reactant | diisopropylamine | 22.3 g | C(C)(C)NC(C)C | C6H15N
reactant | α-chloro-α-(4-chlorophenyl)-acetyl chloride | 24.5 g | ClC(C(=O)Cl)C1=CC=C(C=C1)Cl | C8H5Cl3O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | α-chloro-α-(4-chlorophenyl)-acetic acid diisopropyl amide | 27.2 g | C(C)(C)N(C(C(C1=CC=C(C=C1)Cl)Cl)=O)C(C)C | C14H19Cl2NO
